US09216182B2
a) 6-(3-hydroxyazetidin-1-yl)nicotinamide
To a solution of 6-chloronicotinamide (0.16 g, 1 mmol) and azetidin-3-ol (73 mg, 1 mmol) in DMF (5 ml) under nitrogen was added K2CO3 (0.41 g, 3 mmol). The resulting solution was stirred under nitrogen at 125° C. for 24 h. After all the starting materials were consumed, the reaction mixture was allowed to cool to ambient temperature. The reaction mixture was then filtered and the filter cake was washed with ethyl acetate. The combined filtrates were concentrated to afford the title compound (50 mg, 25%) as a yellow solid. [LCMS RtA=0.81 min, [M+H]+=194.1].

reactant | 6-chloronicotinamide | 1 mmol, 0.16 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
reactant | azetidin-3-ol | 1 mmol, 73 mg | N1CC(C1)O | C3H7NO
reactant | K2CO3 | 3 mmol, 0.41 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 6-(3-hydroxyazetidin-1-yl)nicotinamide | 50 mg, 25% | OC1CN(C1)C1=NC=C(C(=O)N)C=C1 | C9H11N3O2
